US08067408B2
To a solution of 1-bromo-3-(bromomethyl)-5-methylbenzene (34.0 g, 128.8 mmol) in DMF (200 mL), was added potassium phthalide (28.9 g, 154.6 mmol), and the mixture was stirred under reflux for 2 h. The reaction was allowed to cool to room temperature. After the solvent was remove under reduced pressure, the residue was dissolved in CH2Cl2 (300 mL), and washed with water (50 mL×3). The organic layer was dried over anhydrous sodium sulfate. Evaporation of the solvent gave a white solid. The solid was recrystallized from toluene and EtOH to give the product, 2-[(3-bromo-5-methylphenyl)methyl]-1H-isoindole-1,3(2H)-dione (28.5 g, 67%). 1H NMR (400 MHz, CDCl3): δ 7.87-7.72 (m, 4 H), 7.36 (s, 1H), 7.23 (s, 1 H), 7.15 (s, 1 H), 4.77 (s, 2 H), 2.30 (s, 3 H).

reactant | 1-bromo-3-(bromomethyl)-5-methylbenzene | 128.8 mmol, 34.0 g | BrC1=CC(=CC(=C1)C)CBr | C8H8Br2
reactant | potassium phthalide | 154.6 mmol, 28.9 g | C1(=O)OCC2=CC=CC=C12.[K]
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-[(3-bromo-5-methylphenyl)methyl]-1H-isoindole-1,3(2H)-dione | 28.5 g, 67% | BrC=1C=C(C=C(C1)C)CN1C(C2=CC=CC=C2C1=O)=O | C16H12BrNO2
